US07459451B2
To a mixture of [1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol (110 mg), Et3N (0.29 ml) in N,N-dimethylsulfoxide (3 ml) was added sulfur trioxide-pyridine complex (168 mg) at room temperature and the mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with water and extracted with EtOAc. The organic layer was washed with saturated aqueous ammonium chloride, saturated aqueous NaHCO3, water, brine, dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluting with a mixture of EtOAc and n-hexane(3:1) to give 1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde (86 mg) as a white crystal.

reactant | [1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol | 110 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)CO)COC | C17H20N4O2
reactant | Et3N | 0.29 ml | CCN(CC)CC | C6H15N
solvent | water | O | H2O
product | 1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde | 86 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)C=O)COC | C17H18N4O2
